US06933304B2
3-(1,3-benzodioxol-5-yl)pentanedioic acid:
Diethyl 2-(1,3-benzodioxol-5-yl)-4-hydroxy-4-methyl-6-oxocyclohexane-1,3-dicarboxylate (19 g) was suspended in ethanol (140 ml) and an aqueous solution of NaOH (50%, 270 ml). The mixture was heated at reflux for one hour. After the mixture was cooled to room temperature, the ethanol was removed under reduced pressure. Then, concentrated HCl was added until pH 1 was achieved while maintaining the temperature below 50° C. The mixture was filtered. The solid was washed with ether. The two layers were separated. The aqueous layer was extracted with ether (3×). The ether layers were combined, dried, and concentrated to give product. 1H NMR (DMSO-d6) δ 12.06 (br s, 2H), 6.88-6.68 (m, 3H), 5.98 (s, 2H), 3.4-3.3 (m, 1H), 2.62-2.42 (m, 4H).

reactant | Diethyl 2-(1,3-benzodioxol-5-yl)-4-hydroxy-4-methyl-6-oxocyclohexane-1,3-dicarboxylate | 19 g | O1COC2=C1C=CC(=C2)C2C(C(CC(C2C(=O)OCC)(C)O)=O)C(=O)OCC | C20H24O8
reactant | NaOH | 270 ml | [OH-].[Na+]
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 3-(1,3-benzodioxol-5-yl)pentanedioic acid | O1COC2=C1C=CC(=C2)C(CC(=O)O)CC(=O)O | C12H12O6
